US08193356B2
To a suspension of 4-hydroxy-1-phenyl-3-phenylacetyl-1,6-naphthyridin-2(1H)-one (42 mg, 0.12 mmol) produced in Synthesis Example 12 in DMF (3 mL) was added hydrazine monohydrate (purity of 80%, 19 μL), and the mixture was stirred at 100 to 110° C. overnight. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration and dried to give 3-benzyl-5-phenyl-1H-pyrazolo[4,3-c][1,6]naphthyridin-4(5H)-one as a form of crystal (11 mg, yield 25%).

reactant | 4-hydroxy-1-phenyl-3-phenylacetyl-1,6-naphthyridin-2(1H)-one | 0.12 mmol, 42 mg | OC1=C(C(N(C2=CC=NC=C12)C1=CC=CC=C1)=O)C(CC1=CC=CC=C1)=O | C22H16N2O3
reactant | hydrazine monohydrate | 19 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-benzyl-5-phenyl-1H-pyrazolo[4,3-c][1,6]naphthyridin-4(5H)-one | C(C1=CC=CC=C1)C1=NNC2=C1C(N(C=1C=CN=CC21)C2=CC=CC=C2)=O | C22H16N4O
